US07232836B2
Step A: Preparation of 3-bromo-N,N-dimethyl-1H-pyrazole-1-sulfonamide
To a solution of N-dimethylsulfamoylpyrazole (44.0 g, 0.251 mol) in dry tetrahydrofuran (500 mL) at −78° C. was added dropwise a solution of n-butyllithium (2.5 M in hexane, 105.5 mL, 0.264 mol) while maintaining the temperature below −60° C. A thick solid formed during the addition. Upon completion of the addition the reaction mixture was maintained for an additional 15 minutes, after which time a solution of 1,2-dibromo-tetrachloroethane (90 g, 0.276 mol) in tetrahydrofuran (150 mL) was added dropwise while maintaining the temperature below −70° C. The reaction mixture turned a clear orange; stirring was continued for an additional 15 minutes. The −78° C. bath was removed and the reaction was quenched with water (600 mL). The reaction mixture was extracted with methylene chloride (4×), and the organic extracts were dried over magnesium sulfate and concentrated. The crude product was further purified by chromatography on silica gel using methylene chloride-hexane (50:50) as eluent to afford the title product as a clear colorless oil (57.04 g).

reactant | N-dimethylsulfamoylpyrazole | 0.251 mol, 44.0 g | CN(S(=O)(=O)N1N=CC=C1)C | C5H9N3O2S
reactant | n-butyllithium | 0.264 mol, 2.5 M, 105.5 mL | C(CCC)[Li]
reactant | 1,2-dibromo-tetrachloroethane | 0.276 mol, 90 g | BrC(C(Br)(Cl)Cl)(Cl)Cl | C2Br2Cl4
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 3-bromo-N,N-dimethyl-1H-pyrazole-1-sulfonamide | 57.04 g | BrC1=NN(C=C1)S(=O)(=O)N(C)C | C5H8BrN3O2S
